US07645771B2
The TFA salt of 3-[(5-piperidin-4-yl-1,2,4-oxadiazol-3-yl)methyl]pyridine (27 mg, 0.076 mmol) was combined with (1-benzoyl-4-phenylpiperidin-4-yl)acetaldehyde (21 mg, 0.069 mmol) in 2 mL DCM and treated with NaBH(OAc)3 (43 mg, 0.203 mmol) at ambient temperature with agitation for 18 h. 1 mL of saturated aqueous NaHCO3 was added and agitated 1 h. The organic phase was separated and concentrated. The crude product was purified by HPLC (METHOD) to give 3-[(5-{1-[2-(1-benzoyl-4-phenylpiperidin-4-yl)ethyl]piperidin-4-yl}-1,2,4-oxadiazol-3-yl)methyl]pyridine (14.2 mg, 0.024 mmol, 34%) as the formate salt. 1H NMR (300 MHz, CD3OD) δ 8.52-8.44 (m, 2H), 7.80 (d, 1H, J=7.9 Hz), 7.48-7.38 (m, 10H), 7.26 (m, 1H), 4.19 (m, 1H), 4.13 (s, 2H), 3.59 (m, 1H), 3.36-3.29 (m, 3H), 3.12-3.02 (m, 3H), 2.47-1.45 (m, 13H). ES-LCMS m/z 536.25 (M+H). HRMS C33H37N5O2 m/z 536.3026 (M+H)Cal. 536.3018 (M+H)Obs..

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3-[(5-piperidin-4-yl-1,2,4-oxadiazol-3-yl)methyl]pyridine | 0.076 mmol, 27 mg | N1CCC(CC1)C1=NC(=NO1)CC=1C=NC=CC1 | C13H16N4O
reactant | (1-benzoyl-4-phenylpiperidin-4-yl)acetaldehyde | 0.069 mmol, 21 mg | C(C1=CC=CC=C1)(=O)N1CCC(CC1)(C1=CC=CC=C1)CC=O | C20H21NO2
reactant | NaBH(OAc)3 | 0.203 mmol, 43 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
reactant | formate | C(=O)[O-]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[(5-{1-[2-(1-benzoyl-4-phenylpiperidin-4-yl)ethyl]piperidin-4-yl}-1,2,4-oxadiazol-3-yl)methyl]pyridine | 0.024 mmol, 14.2 mg, 34% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1CCC(CC1)C1=NC(=NO1)CC=1C=NC=CC1 | C33H37N5O2
